US04584117
Add 56.7 g of tetraethylene pentaamine (with an AV of approximately 1050 mg KOH/g) to a 250 ml flask fitted with a stirrer, condensor and nitrogen inlet. Add 26.4 g ethylene carbonate to the system. Heat the system at 160° C. for 3 hours under N2. Strip the system to yield an ethylene carbonate-triethylene tetraamine adduct having an AV of approximately 540 mg KOH/g.

reactant | tetraethylene pentaamine | 56.7 g | NCCNCCNCCNCCN | C8H23N5
reactant | KOH | approximately 1050 mg | [OH-].[K+]
reactant | ethylene carbonate | 26.4 g | C1(OCCO1)=O | C3H4O3
product | ethylene carbonate triethylene tetraamine | C1(OCCO1)=O.NCCNCCNCCN | InChI=1S/C6H18N4.C3H4O3/c7-1-3-9-5-6-10-4-2-8;4-3-5-1-2-6-3/h9-10H,1-8H2;1-2H2
